US05364866
4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-[3-(1-piperidinyl]propyl]piperidine difumarate
A mixture of 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine (3.0 gm, 13.6 mmol), N-(3-chloropropyl)piperidine hydrochloride (4.05 gm, 20.4 mmol), K2CO3 (6 gm, 43.4 mmol), tetrabutyl-ammonium hydrogen sulfate (phase transfer catalyst, 2.3 gm) in acetonitrile (100 ml) and water (15 ml) was heated at reflux for 16 hr. The mixture was washed with brine and the layers were separated. The organic solution was concentrated. The crude product (6.4 gm) was purified by flash chromatography over a silica gel column (55 gm, sorbsil C-30; eluted with 2% CH3OH:0°-5% DEA in DCM, 1.41). The oil thus purified (4.5 gm) was treated with fumaric acid (1.6 gm) in ethanol. The solid was collected: weight 3.1 in, m.p.178°- 181° C. Recrystallization from ethanol yielded 2.28 gm of white crystals, mp=190°-192° C.

reactant | 4-(6-fluoro-1,2-benzisoxazol-3-yl)piperidine | 13.6 mmol, 3.0 gm | FC1=CC2=C(C(=NO2)C2CCNCC2)C=C1 | C12H13FN2O
reactant | N-(3-chloropropyl)piperidine hydrochloride | 20.4 mmol, 4.05 gm | Cl.ClCCCN1CCCCC1
reactant | K2CO3 | 43.4 mmol, 6 gm | C(=O)([O-])[O-].[K+].[K+]
reactant | water | 15 ml | O | H2O
catalyst | tetrabutyl-ammonium hydrogen sulfate | 2.3 gm | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-(6-Fluoro-1,2-benzisoxazol-3-yl)-1-[3-(1-piperidinyl]propyl]piperidine difumarate | 2.28 gm | C(\C=C\C(=O)O)(=O)O.C(\C=C\C(=O)O)(=O)O.FC1=CC2=C(C(=NO2)C2CCN(CC2)CCCN2CCCCC2)C=C1 | InChI=1S/C20H28FN3O.2C4H4O4/c21-17-5-6-18-19(15-17)25-22-20(18)16-7-13-24(14-8-16)12-4-11-23-9-2-1-3-10-23;2*5-3(6)1-2-4(7)8/h5-6,15-16H,1-4,7-14H2;2*1-2H,(H,5,6)(H,7,8)/b;2*2-1+
